simulator lang=spectre
global 0

ahdl_include "../submission/reset_release_sequencer.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=200p period=1n width=420p rise=25p fall=25p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.1n 0.9 1.15n 0 8.5n 0 8.55n 0.9 9.4n 0.9 9.45n 0 14n 0]
Vsupply (supply_ok 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 6.4n 0.9 6.45n 0 7.4n 0 7.45n 0.9 14n 0.9]
Vbias (bias_ok 0) vsource type=pwl wave=[0 0 2.2n 0 2.25n 0.9 5.2n 0.9 5.25n 0 5.9n 0 5.95n 0.9 14n 0.9]
XDUT (clk rst supply_ok bias_ok stage1 stage2 ready progress) reset_release_sequencer

tran tran stop=14n maxstep=10p
save clk rst supply_ok bias_ok stage1 stage2 ready progress time
